US07812047B2
b) 4-(4-Chlorophenyl)-1,2-butanediamine
A solution of 2-amino-4-(4-chloro-phenyl)-butyronitril (0.425 g, 2.18 mmol) in tetrahydrofurane (4 ml) was added dropwise to a suspension of lithium aluminum hydride (0.331 g, 8.73 mmol) in tetrahydrofurane (4 ml) at 0° C. under argon atmosphere. The reaction mixture was allowed to reflux overnight. After cooling to 0° C. solid sodium sulphate decahydrate was added and stirring was continued for 1 hour. The grey suspension was filtered through Celite and the solvent was evaporated. The residue was purified by chromatography (column: Isolute® Flash-NH2 from Separtis; eluent:ethyl acetate/methanol=90:10) to yield a colorless oil (0.091 g, 21%); MS (ISP): 199.1 ((M+H)+).

reactant | 2-amino-4-(4-chloro-phenyl)-butyronitril | 2.18 mmol, 0.425 g | NC(C#N)CCC1=CC=C(C=C1)Cl | C10H11ClN2
reactant | lithium aluminum hydride | 8.73 mmol, 0.331 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulphate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
product | 4-(4-Chlorophenyl)-1,2-butanediamine | 0.091 g, 21% | ClC1=CC=C(C=C1)CCC(CN)N | C10H15ClN2
